US08202873B2
3′-(2-Trifluoromethylphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine Dihydrochloride
Suspend 3′-(2-trifluoromethylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (408 mg, 1.00 mmol) in HCl in diethyl ether (1 M, 10 mL), stir for 2 hr. then concentrate in vacuo. Add more HCl in diethyl ether (1 M, 20 mL) and stir overnight at room temperature and concentrate. Add HCl in dioxane (4 M, 10 mL) and stir for 2 hr.s, then concentrate to give the title preparation as yellow solid (471 mg, 123%). MS (ES): m/z=309 [M+H]+.

reactant | 3′-(2-trifluoromethylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 1.00 mmol, 408 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=C(C=CC=C1)C(F)(F)F | C20H23F3N4O2
reactant | HCl | Cl | ClH
solvent | diethyl ether | 1 M, 10 mL | C(C)OCC | C4H10O
product | 3′-(2-Trifluoromethylphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine Dihydrochloride | Cl.Cl.FC(C1=C(C=CC=C1)C=1C(=NC=CN1)N1CCNCC1)(F)F | InChI=1S/C15H15F3N4.2ClH/c16-15(17,18)12-4-2-1-3-11(12)13-14(21-6-5-20-13)22-9-7-19-8-10-22;;/h1-6,19H,7-10H2;2*1H
